* Z:\mnt\design.r\spice\examples\2903-A1.asc
XU1 N001 0 N005 N006 N003 N002 LTC2903-A1
V2 N001 0 PULSE(0 3.3 0 3.3)
V1 N005 0 PULSE(0 2.5 0 2.5)
V3 N006 0 PULSE(0 1.8 0 1.8)
V4 N004 0 PULSE(0 1.2 0 1.2)
R3 0 N003 10K
R2 N003 N004 12.4K
R1 N002 N001 10K
.tran 4
.lib LTC2903-A1.sub
.backanno
.end
